US07517889B2
A mixture of 4,6-dichloro-2-methoxy-pyrimidine (0.27 g, 1.48 mmol), C-(4-methyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-yl)-methylamine (0.22 g, 1.23 mmol), and NaHCO3 (0.62 g, 7.4 mmol) in EtOH (7 mL) is heated to reflux for 5 h. The mixture is concentrated in vacuo. The residue is partitioned between EtOAc and water, and extracted with EtOAc. The extracts are dried (Na2SO4), and concentrated to afford (6-chloro-2-methoxy-pyrimidin-4-yl)-(4-methyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-ylmethyl)-amine (0.39 g). LCMS: RT=3.27 minutes; MS: 321 (M+H).

reactant | 4,6-dichloro-2-methoxy-pyrimidine | 1.48 mmol, 0.27 g | ClC1=NC(=NC(=C1)Cl)OC | C5H4Cl2N2O
reactant | C-(4-methyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-yl)-methylamine | 1.23 mmol, 0.22 g | CN1CC(OC2=C1C=CC=C2)CN | C10H14N2O
reactant | NaHCO3 | 7.4 mmol, 0.62 g | C(=O)(O)[O-].[Na+]
solvent | EtOH | 7 mL | CCO | C2H6O
product | (6-chloro-2-methoxy-pyrimidin-4-yl)-(4-methyl-3,4-dihydro-2H-benzo[1,4]oxazin-2-ylmethyl)-amine | 0.39 g | ClC1=CC(=NC(=N1)OC)NCC1OC2=C(N(C1)C)C=CC=C2 | C15H17ClN4O2
